US05573746
Example 3. Synthesis of cyclohexylglycine
Similar equipment and procedure as described in Example 1 were employed. 75.5 grams glycine (1.01 moles, Aldrich, 99+%), 118.4 grams cyclohexanone (1.21 moles, Aldrich 99.8%), 300 ml glacial acetic acid and 11.2 grams of Pd (5%)/C were used. The reaction was carried out in a 600 ml Parr reactor under 1000 psig hydrogen pressure at 75° C. No noticeable hydrogen uptake was noticed after 1.5 days, and the reaction was carried out for 4.5 days. The reactor was opened after cooling to room temperature. The solid catalyst was filtered by suction. The filtrate was rotavapped to remove the acetic acid and the excess cyclohexanone. A viscous crude product (brown) remained which started to crystallize upon cooling to room temperature. The crude product weighed 252.5 grams; it was stirred into excess either whereby a white solid precipitate out. The solid was filtered and washed with ether. The filtrate was yellow and the washing was light yellow. The solid was dried in the hood overnight. The solid was redissolved in a very small amount of acetic acid and recrystallized by adding appropriate amount of ether. 144.5 grams of white crystals were recovered (91% yield based on glycine). Elemental analysis: calculated: C:61.12; H:9.62; N:8.91; 0:20.36; found: C:60.96; H:9.75; N:8.88; O:20.41.

reactant | glycine | 1.01 moles, 75.5 grams | NCC(=O)O | C2H5NO2
reactant | cyclohexanone | 1.21 moles, 118.4 grams | C1(CCCCC1)=O | C6H10O
reactant | hydrogen | [H][H] | H2
catalyst | Pd | 11.2 grams | [Pd] | Pd
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | cyclohexylglycine | 91% yield | C1(CCCCC1)NCC(=O)O | C8H15NO2
